US07618961B2
tert-Butyl (3R)-3-methyl-1-piperazinecarboxylate
R-(−)-2-Methylpiperazine (1.00 g, 10 mmol) was dissolved in 50% aqueous methanol (5 mL). Acetic acid (0.57 mL, 10 mmol) was added and the solution was cooled in ice. Di-tert-butyldicarbonate (2.18 g, 10 mmol) dissolved in methanol (5 mL) was added slowly. The mixture was allowed to reach room temperature and left for 0.5 h after the gas evolution had ceased. The mixture was concentrated in vacuum and a small amount (0.1 g) of precipitate was filtered off. Aqueous potassium carbonate (10 mL, 1 M) was added to the filtrate and the solution was extracted with ethyl acetate (2×20 mL). The organic phase was washed with brine, dried (Magnesium sulfate), filtered and evaporated to give 1.68 g (84%) product as a white solid: 1H NMR (CDCl3) δ 3.88 (bs, 2H), 2.89 (m, 1H), 2.4-2.8 (m, 3H), 2.3 (m, 1H), 1.62 (1H), 1.41 (s, 9H), 1.0 (d, 3H).

reactant | R-(−)-2-Methylpiperazine | 10 mmol, 1.00 g | C[C@@H]1CNCCN1 | C5H12N2
reactant | Acetic acid | 10 mmol, 0.57 mL | C(C)(=O)O | C2H4O2
reactant | Di-tert-butyldicarbonate | 10 mmol, 2.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | tert-Butyl (3R)-3-methyl-1-piperazinecarboxylate | 1.68 g, 84% | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
